US07041689B2
Step 2 Trifluoromethanesulfonic acid 5-(4-fluorophenyl)-1-methyl-1H-pyrazol-3-yl ester
To a cooled suspension of 5-(4-fluorophenyl)-1-methyl-1,2-dihydropyrazol-3-one (15.5 g, 81 mmol) in dry pyridine (100 ml) was added in three portions trifluoromethanesulfonic anhydride (24 g, 85 mmol) maintaining the temperature below 5° C. After addition the cooling bath was removed and the reaction was stirred for two hours before pouring into 2M hydrochloric acid and extracting into ethyl acetate. The organic layer was washed with brine, saturated sodium hydrogen carbonate, and dried (sodium sulphate), filtered and evaporated to yield a residue which was dissolved in toluene and evaporated and then dissolved in isohexane and filtered through a plug of silica, eluting with dichloromethane. The solvent was evaporated to yield product as a colourless oil (23.4 g, 89%) δ (1H, 500 Hz, CDCl3) 3.80 (3H, s), 6.14 (1H, s), 7.15–7.19 (2H, m), 7.38–7.42 (2H, m).

reactant | 5-(4-fluorophenyl)-1-methyl-1,2-dihydropyrazol-3-one | 81 mmol, 15.5 g | FC1=CC=C(C=C1)C1=CC(NN1C)=O | C10H9FN2O
reactant | trifluoromethanesulfonic anhydride | 85 mmol, 24 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Trifluoromethanesulfonic acid 5-(4-fluorophenyl)-1-methyl-1H-pyrazol-3-yl ester | 23.4 g, 89% | FC1=CC=C(C=C1)C1=CC(=NN1C)OS(=O)(=O)C(F)(F)F | C11H8F4N2O3S
